### PR TITLE
[Merged by Bors] - feat: add Basis.flag_le_ker_dual

### PR DESCRIPTION
**Pull request by grunweg**
From sphere-eversion; I adapted the proof to mathlib's definition and golfed it a bit.
This adds a new import; as this file is not imported anywhere, this seems fine.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Basis/Flag.lean [hunk 1]
```diff
@@ -79,6 +80,15 @@ theorem flag_le_ker_coord (b : Basis (Fin n) R M) {k : Fin (n + 1)} {l : Fin n}
   nontriviality R
   exact b.flag_le_ker_coord_iff.2 h
 
+theorem flag_le_ker_dual (b : Basis (Fin n) R M) (k : Fin n) :
+    b.flag k ≤ LinearMap.ker (b.dualBasis k) := by
```
Comment (fpvandoorn) [inline Mathlib/LinearAlgebra/Basis/Flag.lean:84]:
```suggestion
    b.flag k.castSucc ≤ LinearMap.ker (b.dualBasis k) := by
```
The other one is not in simp-normal form (and not following the style of other lemmas in this file).

**Comment by grunweg** [comment]
Good point, thank you! I have taken a closer look a realised the lemma proof could be golfed quite bit. It's ready for another look now.

**Comment by fpvandoorn** [comment]
bors merge
